US05213699
N,N,N'-Triallyl-N'-phenyl-p-phenylenediamine
A well-stirred intimate mixture of N-phenyl-p-phenylenediamine (10 g, 0.054 mol), allyl bromide (16 ml, 0.18 mol), potassium iodide (1 g, 0.006 mol) and tetrabutylammonium bromide (1 g, 0.003 mol) is treated with an aqueous solution of sodium hydroxide (7.2 g, 0.18 mol). The mixture is heated to 80° C. for five hours. The mixture is then cooled and extracted with diethyl ether. The organic layer is dried over anhydrous magnesium sulfate and concentrated to an oil. The oil is chromatographed (silica gel; hexane:ethyl acetate) to give the title compound in a yield of 13.1 g (80%) as a yellow oil.

reactant | N-phenyl-p-phenylenediamine | 0.054 mol, 10 g | C1(=CC=CC=C1)NC1=CC=C(C=C1)N | C12H12N2
reactant | allyl bromide | 0.18 mol, 16 ml | C(C=C)Br | C3H5Br
reactant | potassium iodide | 0.006 mol, 1 g | [I-].[K+]
reactant | sodium hydroxide | 0.18 mol, 7.2 g | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 0.003 mol, 1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | N,N,N'-Triallyl-N'-phenyl-p-phenylenediamine | C(C=C)N(C1=CC=C(C=C1)N(C1=CC=CC=C1)CC=C)CC=C | C21H24N2
